### PR TITLE
[Merged by Bors] - feat: missing basic API lemmas for `Nat.card`, `Fintype.card`

### PR DESCRIPTION
**Pull request by JovanGerb**
`card_sigma` existed for `Fintype.card` and I've added it for `Nat.card`. This version uses `Finite` instead of `Fintype` for the dependent type, for generality.

`card_univ` existed for `Nat.card` and I've added it for `Fintype.card`.

I've added `card_subtype_true` for both `Nat.card` and `Fintype.card`.

I've renamed `empty_card` -> `card_empty`

With `Fintype.card` rewrite lemmas, one has to be careful about the instance to avoid unifying with a non-defeq instance. This can be solved by taking the instance as a (normal) implicit parameter. However, it is not clear that this is really necessary.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by bryangingechen** [comment]
Thanks! Is there a typo or missing text in the PR comment?

**Comment by JovanGerb** [comment]
Yes, I've fixed it now.

File: Mathlib/ModelTheory/Basic.lean [hunk 1]
```diff
@@ -111,7 +111,7 @@ instance isAlgebraic_sum [L.IsAlgebraic] [L'.IsAlgebraic] : IsAlgebraic (L.sum L
   fun _ => instIsEmptySum
 
 @[simp]
-theorem empty_card : Language.empty.card = 0 := by simp only [card, mk_sum, mk_sigma, mk_eq_zero,
+theorem card_empty : Language.empty.card = 0 := by simp only [card, mk_sum, mk_sigma, mk_eq_zero,
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Basic.lean:114]: Can you add a deprecation? `scripts/add_deprecations.sh`

File: Mathlib/Data/Fintype/Card.lean [hunk 2]
```diff
@@ -350,6 +350,18 @@ theorem Fintype.card_lex (α : Type*) [Fintype α] : Fintype.card (Lex α) = Fin
 @[simp] lemma Fintype.card_additive (α : Type*) [Fintype α] : card (Additive α) = card α :=
   Finset.card_map _
 
+@[simp]
+theorem Fintype.card_univ [Fintype α] {h : Fintype (Set.univ : Set α)} :
```
Comment (YaelDillies) [inline Mathlib/Data/Fintype/Card.lean:354]:
```suggestion
theorem Fintype.card_setUniv [Fintype α] {_ : Fintype (Set.univ : Set α)} :
```

File: Mathlib/Data/Fintype/Card.lean [hunk 3]
```diff
@@ -350,6 +350,18 @@ theorem Fintype.card_lex (α : Type*) [Fintype α] : Fintype.card (Lex α) = Fin
...
+    @Fintype.card (Set.univ : Set α) h = Fintype.card α := by
```
Comment (YaelDillies) [inline Mathlib/Data/Fintype/Card.lean:355]:
```suggestion
    Fintype.card (Set.univ : Set α) = Fintype.card α := by
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 4]
```diff
@@ -630,7 +630,7 @@ theorem cliqueFinset_eq_empty_iff : G.cliqueFinset n = ∅ ↔ G.CliqueFree n :=
 protected alias ⟨_, CliqueFree.cliqueFinset⟩ := cliqueFinset_eq_empty_iff
 
 theorem card_cliqueFinset_le : #(G.cliqueFinset n) ≤ (card α).choose n := by
-  rw [← card_univ, ← card_powersetCard]
+  rw [← Finset.card_univ, ← card_powersetCard]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:633]: ... and then you can revert this

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Data/Fintype/Card.lean (hunk 3 above)
Comment (JovanGerb) [reply Mathlib/Data/Fintype/Card.lean]: I wrote the theorem with the `Fintype (Set.univ : Set α)` hypothesis, which is unecessary, (as it can use `[Fintype α]` to infer it). The reason is that the lemma would fire irrespective of the particular instance that is in place, and without needing to unify the instance. So I think it is better to explicitly write the application `@Fintype.card .. h`, to make sure lean doesn't accidentally use the other instance that is available. Do you agree?

**Comment by YaelDillies** [comment]
> messageFile.md

...translating: "Please merge master, Jovan"

File: Mathlib/Data/Fintype/Card.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Data/Fintype/Card.lean]: That's reasonable, yes. But can you explain that in a comment to avoid your lemma being regolfed?

Comment (YaelDillies) [reply Mathlib/Data/Fintype/Card.lean:354]: You mentioned the "would fire irrespective of the particular instance that is in place" which is apolemical, but not the "explicitly write the application @Fintype.card .. h, to make sure lean doesn't accidentally use the other instance that is available" part, which I disagree with (Lean always infers from local instances before doing any non-trivial typeclass search)

Comment (JovanGerb) [reply Mathlib/Data/Fintype/Card.lean:354]: So how would you suggest it?

Comment (YaelDillies) [reply Mathlib/Data/Fintype/Card.lean:354]: Either the suggestion I made above or some wording of your choice
